US04720585
(A) N-(t-Butoxycarbonyl)-D-phenylalanine
To a suspension of D-phenylalanine (33.0 g, 0.2 mol) in acetone (120 ml) and water (120 ml) was added triethylamine (41.8 ml, 1.5 eq) followed by 2-(t-butoxycarbonyloxyimino)-2-phenylacetonitrile (54.2 g, 1.1 eq). The resulting mixture was stirred overnight and then diluted with water (250 ml). The aqueous fraction was extracted twice with ether and the ether fractions were discarded. The aqueous fraction was acidified with 0.5M citric acid and extracted with ethyl acetate (2×500 ml). The ethyl acetate fractions were combined and washed with water and brine. After drying over anhydrous magnesium sulfate, the solvent was removed to give the title compound as a viscous yellow oil: 52.2 g.

reactant | D-phenylalanine | 0.2 mol, 33.0 g | N[C@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | triethylamine | 41.8 ml, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | 2-(t-butoxycarbonyloxyimino)-2-phenylacetonitrile | 54.2 g, 1.1 eq | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | acetone | 120 ml | CC(=O)C | C3H6O
solvent | water | 120 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | N-(t-Butoxycarbonyl)-D-phenylalanine | C(C)(C)(C)OC(=O)N[C@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
